US05470855
U) 5-chloro 3-(2,4-dimethylphenyl) 1,2,4-oxadiazole
25 S of 2,4-dimethyl benzonitrile, 14.6 g of hydroxylamine hydrochloride, 29 g of potassium carbonate in 150 ml of ethanol and 35 ml of water are refluxed for 16 hours. Then 7.3 g of hydroxylamine hydrochloride are added followed by 14.5 g of potassium carbonate and reflux is continued for 5 hours,

reactant | 2,4-dimethyl benzonitrile | CC1=C(C#N)C=CC(=C1)C | C9H9N
reactant | hydroxylamine hydrochloride | 14.6 g | Cl.NO
reactant | potassium carbonate | 29 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydroxylamine hydrochloride | 7.3 g | Cl.NO
reactant | potassium carbonate | 14.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | water | 35 ml | O | H2O
product | 5-chloro 3-(2,4-dimethylphenyl) 1,2,4-oxadiazole | ClC1=NC(=NO1)C1=C(C=C(C=C1)C)C | C10H9ClN2O
